US08314092B2
Mix methyl 4-iodo-1H-pyrrole-2-carboxylate (1.5 g, 5.98 mmoles), 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane (3.01 g, 17.98 mmoles) 1,1′-bis(di-tert-butylphosphino)ferrocene (dtbpf) (0.3 g, 0.06 mmoles), tris(dibenzylideneacetonyl)bis-palladium (Pd2(dba)3) (0.3 g, 0.06 mmoles), tripotassium phosphate (2.54 g, 11.95 mmoles) and methanol (12 mL). Heat the mixture in a sealed tube in a microwave at 140° C. for 30 minutes. Cool, filter the reaction mixture and wash sinter with methanol, evaporate the filtrate under reduced pressure and chromatograph on silica eluting with isohexane/dichloromethane (gradient elution, 100:0 to 0:100). Evaporate the fractions containing product to give methyl 4-(prop-1-en-2-yl)-1H-pyrrole-2-carboxylate. (0.679 g, 68.79% yield). MS (m/z): 166.1 (M+1).

reactant | methyl 4-iodo-1H-pyrrole-2-carboxylate | 5.98 mmoles, 1.5 g | IC=1C=C(NC1)C(=O)OC | C6H6INO2
reactant | 4,4,5,5-tetramethyl-2-(prop-1-en-2-yl)-1,3,2-dioxaborolane | 17.98 mmoles, 3.01 g | CC1(OB(OC1(C)C)C(=C)C)C | C9H17BO2
reactant | tripotassium phosphate | 11.95 mmoles, 2.54 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetonyl)bis-palladium | 0.06 mmoles, 0.3 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | methanol | 12 mL | CO | CH4O
product | methyl 4-(prop-1-en-2-yl)-1H-pyrrole-2-carboxylate | 68.79% yield | C=C(C)C=1C=C(NC1)C(=O)OC | C9H11NO2
